US07625929B2
2.1: ethyl trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoate
This product is obtained by carrying out the procedure as described in Preparation 1.2 above, using ethyl 4-[4-(benzylamino)cyclohexyl]benzoate and 4-benzyloxy-3-methylsulfonyl-1-((2S)-2,3-epoxypropoxy)benzene, described in patent application WO 99/65895, and without adding thereto the hydrochloric acid solution in ethanol. [M+H+]=672.

reactant | ethyl 4-[4-(benzylamino)cyclohexyl]benzoate | C(C1=CC=CC=C1)NC1CCC(CC1)C1=CC=C(C(=O)OCC)C=C1 | C22H27NO2
reactant | 4-benzyloxy-3-methylsulfonyl-1-((2S)-2,3-epoxypropoxy)benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@@H]1CO1)S(=O)(=O)C | C17H18O5S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | ethyl trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-(methylsulfonyl)phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoate | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)S(=O)(=O)C)O | C39H45NO7S
